US07781436B2
10-[4-(2-Methoxy-phenyl)-piperidine-1-carbonyl]-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
To a solution of 0.10 g (0.32 mmol) 3,4-dihydro-1H-pyrazino[1,2-a]indole-2,10-dicarboxylic acid 2-tert-butyl ester, 0.067 g (0.35 mmol) 4-(2-methoxyphenyl)-piperidine and 0.051 g (0.38 mmol) 1-hydroxybenzotriazole in 3.5 ml N,N-dimethylformamide were added 0.073 g (0.38 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride at room temperature. After stirring for 3 h the reaction mixture was diluted with saturated aqueous ammonium chloride solution and extracted with tert-butyl methyl ether (2×50 ml). The combined organic layers were washed with 1 M sodium hydroxide solution (1×30 ml) and water (1×30 ml), dried over sodium sulfate, concentrated in vacuo and purified by flash-chromatography (aminopropyl-modified silica gel, n-heptane/ethyl acetate) to give the title compound (0.087 g, 56%) as a light yellow solid.

reactant | 3,4-dihydro-1H-pyrazino[1,2-a]indole-2,10-dicarboxylic acid 2-tert-butyl ester | 0.32 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=CC=CC3C2C(=O)O)CC1 | C17H20N2O4
reactant | 4-(2-methoxyphenyl)-piperidine | 0.35 mmol, 0.067 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | 1-hydroxybenzotriazole | 0.38 mmol, 0.051 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.38 mmol, 0.073 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 10-[4-(2-Methoxy-phenyl)-piperidine-1-carbonyl]-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.087 g, 56% | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=CC=CC3C2C(=O)N2CCC(CC2)C2=C(C=CC=C2)OC)CC1 | C29H35N3O4
